US04810699
Oxalyl chloride (3.2 g, 2.2 mL, 24.7 mmol) was added dropwise under nitrogen to an ice cold solution of ethyl 7-(phenylmethoxy)-indole (2.3 g, 10.3 mmol) in anhydrous ether (40 mL). The mixture was stirred for 1 hour at room temperature during which time a yellow precipitate was formed. The solvent and the excess of oxalyl chloride was removed at reduced pressure to yield 7-(phenylmethoxy)-indol-3-yl-glyoxyl chloride. Ethanol (50 mL) was then added to the residue and the solution was stirred overnight under nitrogen at room temperature. Removal of the solvent in vacuo provided ethyl 7-(phenylmethoxy)-indol-3-yl-glyoxylate as a tan solid (3 g, 94%).

reactant | Oxalyl chloride | 24.7 mmol, 2.2 mL, 3.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethyl 7-(phenylmethoxy)-indole | 10.3 mmol, 2.3 g | C(C)C=1NC2=C(C=CC=C2C1)OCC1=CC=CC=C1 | C17H17NO
reactant | Ethanol | 50 mL | C(C)O | C2H6O
solvent | ether | 40 mL | CCOCC | C4H10O
product | ethyl 7-(phenylmethoxy)-indol-3-yl-glyoxylate | 3 g, 94% | C1(=CC=CC=C1)COC=1C=CC=C2C(=CNC12)C(C(=O)OCC)=O | C19H17NO4
